US06593350B2
Toluene-4-sulfonic acid 7-nitro-8-(2-nitro-but-1-enyl)-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester
To a solution of 1.0 g (2.45 mmole) of (2R)-(8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methyl 4-methylbenzenesulfonate in 15 mL of acetic acid was added 0.87 mL (9.8 mmole) of nitropropane and 0.38 g (4.9 mmole) of ammonium acetate and the mixture was heated at 80° C. under nitrogen for 6 hours. After the mixture cooled, the solvent was removed in vacuum and replaced with 200 mL of ethyl acetate. The solution was washed with 200 mL of water and the aqueous wash was back-extracted with an additional 200 mL of ethyl acetate. The combined organics were washed with 200 mL each of saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum to an oily yellow solid. Column chromatography on silica gel with 1:1 hexane/ethyl acetate as eluant gave 0.70 g of the (R)-enantiomer of the title compound as a yellow solid. 1H-NMR (CDCl3): doublet 7.8 δ (2 H); doublet 7.75 δ (1 H); doublet 7.4 δ (2 H); doublet 7.03 δ (1 H); singlet 5.3 δ (1 H); multiplet 4.45 δ (1 H); multiplet 4.4 δ (1 H); multiplet 4.21 δ (3 H); singlet 2.45 δ (3 H); quartet 2.4 δ (2 H); triplet 1.0 δ (3 H).

reactant | (2R)-(8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methyl 4-methylbenzenesulfonate | 2.45 mmole, 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=O | C17H15NO8S
reactant | nitropropane | 9.8 mmole, 0.87 mL | [N+](=O)([O-])CCC | C3H7NO2
reactant | ammonium acetate | 4.9 mmole, 0.38 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | Toluene-4-sulfonic acid 7-nitro-8-(2-nitro-but-1-enyl)-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester | [N+](=O)([O-])C=1C=CC2=C(OC(CO2)COS(=O)(=O)C2=CC=C(C=C2)C)C1C=C(CC)[N+](=O)[O-] | C20H20N2O9S
